US06635655B1
6-[3-(t-Butyldiphenylsilyloxymethyl)-phenyl]-hexanoic Acid
To a solution of 6-[3-(t-Butyldiphenylsilyloxymethyl)-phenyl]-hexanol (5.9 g, 13.2 mmol) in acetonitrile (28 mL) is added CCl4 (28 mL) and water (43 mL). To this mixture is added NaIO4 (11.7 g, 54 mmol) and RuCl3(H2O) (100 mg, 0.5 mmol). The resulting mixture is stirred for 2 h then diluted with ethyl acetate, washed with water and brine, dried over MgSO4 and activated charcoal, filtered through celite and concentrated. The residue is purified by flash chromatography (silica, 20% ethyl acetate/5% dichloromethane in hexanes) to give the title compound (3.46 g) as an oil. MS (ESI) 461 (M+H)+.

reactant | 6-[3-(t-Butyldiphenylsilyloxymethyl)-phenyl]-hexanol | 13.2 mmol, 5.9 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=CC1)CCCCCCO | C29H38O2Si
reactant | CCl4 | 28 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | water | 43 mL | O | H2O
solvent | acetonitrile | 28 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[3-(t-Butyldiphenylsilyloxymethyl)-phenyl]-hexanoic Acid | 3.46 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=CC1)CCCCCC(=O)O | C29H36O3Si
